US05510366
(1) 2-Bromo-4-n-hexyl-1-methoxybenzene
26.4 g (0.137 mol) of 4-n-hexyl-1-methoxybenzene was dissolved in 200 ml of methanol. 26.4 g (0.156 mol) of bromine was added while stirring under cooling with ice. The mixture was stirred for 2 hours, while raising the temperature to room temperature. Sodium sulfite was added to the reaction mixture to decompose an excess amount of bromine, whereupon the mixture was extracted with chloroform-water. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue obtained was purified by column chromatography (silica gel, 20:1 mixture of n-hexane and ethyl acetate) to obtain 35.18 g (yield, 95.8%) of a colorless oil of the title compound.

reactant | 4-n-hexyl-1-methoxybenzene | 0.137 mol, 26.4 g | C(CCCCC)C1=CC=C(C=C1)OC | C13H20O
reactant | bromine | 0.156 mol, 26.4 g | BrBr | Br2
reactant | Sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 2-Bromo-4-n-hexyl-1-methoxybenzene | BrC1=C(C=CC(=C1)CCCCCC)OC | C13H19BrO
